US08497281B2
6-(cis-2,3,4,4a,9,9a-Hexahydro-indeno[2,1-b]pyridine-1-carbonyl)-1H-quinoxalin-2-one
The title compound is prepared from 2-oxo-1,2-dihydro-quinoxaline-6-carboxylic acid and cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine following a procedure analogous to that described in Example 1 [2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate is used]. Yield: 45% of theory; LC (method 4): tR=1.89 min; Mass spectrum (ESI+): m/z=346 [M+H]+.

reactant | 2-oxo-1,2-dihydro-quinoxaline-6-carboxylic acid | O=C1NC2=CC=C(C=C2N=C1)C(=O)O | C9H6N2O3
reactant | cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine | N1[C@@H]2[C@H](CCC1)C=1C=CC=CC1C2 | C12H15N
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
product | 6-(cis-2,3,4,4a,9,9a-Hexahydro-indeno[2,1-b]pyridine-1-carbonyl)-1H-quinoxalin-2-one | Yield: 45% | N1([C@@H]2[C@H](CCC1)C=1C=CC=CC1C2)C(=O)C=2C=C1N=CC(NC1=CC2)=O | C21H19N3O2
